US07781441B2
c) 4-Methyl-2-methylsulfanyl-7-trifluoromethyl-3,4-dihydro-quinazoline hydroiodide
Methyl iodide (0.94 ml, 15.1 mmol) was added to a suspension of 4-methyl-7-trifluoromethyl-3,4-dihydro-1H-quinazoline-2-thione (1.24 g, 5.04 mmol) in acetone (15 ml). The mixture was stirred for 3 hours (r.t.), diluted with diethyl ether and the title compound (1.66 g, 85%) was isolated from the reaction mixture by filtration as a white solid.

reactant | Methyl iodide | 15.1 mmol, 0.94 ml | CI | CH3I
reactant | 4-methyl-7-trifluoromethyl-3,4-dihydro-1H-quinazoline-2-thione | 5.04 mmol, 1.24 g | CC1NC(NC2=CC(=CC=C12)C(F)(F)F)=S | C10H9F3N2S
solvent | acetone | 15 ml | CC(=O)C | C3H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-Methyl-2-methylsulfanyl-7-trifluoromethyl-3,4-dihydro-quinazoline hydroiodide | 1.66 g, 85% | I.CC1NC(=NC2=CC(=CC=C12)C(F)(F)F)SC | InChI=1S/C11H11F3N2S.HI/c1-6-8-4-3-7(11(12,13)14)5-9(8)16-10(15-6)17-2;/h3-6H,1-2H3,(H,15,16);1H
